US09376381B2
11 g of L-glycine was dissolved in 300 ml of 10% sodium bicarbonate. 150 ml of acetone and 36 g of Ac-Tyr(Ac)-OSu were added into the reaction mixture. The mixture was stirred for 5 h at RT. The mixture was washed with ether (1×300 ml). 500 ml of ethyl acetate was added into the aqueous layer. The pH of the mixture was adjusted to 2.4-2.5 with ice-cooled 3 N HCl. The ethyl acetate layer was collected and washed with water (3×300 ml). The organic solution was dried over sodium sulfate. The solution was evaporated to dryness. 28 g of the residue (Ac-Tyr(Ac)-Gly-OH) and 13 g of N-hydroxysuccinimide were dissolved in 300 ml of dichloromethylene. The mixture was cooled to 0° C. 18 g of 1,3-dicyclohexylcarbodiimide was added into the reaction mixture. The mixture was stirred for 1 hour at 0° C. The solid was removed by filtration. The dichloromethylene solution was washed with 5% sodium bicarbonate (1×200 ml) and water (3×200 ml). The organic solution was dried over sodium sulfate. The solution was evaporated to dryness to yield 20 g Ac-Tyr(Ac)-Gly-OSu.

reactant | L-glycine | 11 g | C(C(=O)O)N | C2H5NO2
reactant | acetone | 150 ml | CC(=O)C | C3H6O
reactant | Ac-Tyr(Ac)-OSu | 36 g | N([C@@H](CC1=CC=C(C=C1)OC(=O)C)C(=O)ON1C(=O)CCC1=O)C(=O)C | C17H18N2O7
solvent | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
product | Ac-Tyr(Ac)-Gly-OSu | 20 g | N([C@@H](CC1=CC=C(C=C1)OC(=O)C)C(=O)NCC(=O)ON1C(=O)CCC1=O)C(=O)C | C19H21N3O8
